US08202537B2
The Phenylephrine Resin Complex was prepared by first dissolving 400 g of phenylephrine HCl in 8 liter of purified water, and then slowly adding 1,165 g of AMBERLITE™ IRP-69 resin with continuous mixing. The dispersion was mixed for 4 hours and upon completion, allowed to settle before decanting the supernatant. The slurring/decanting process was repeated twice with sufficient amounts of purified water. The wet resin complex was then dried in a VWR™ convection oven maintained at 50° C. until moisture content was about 25%. KOLLICOAT™ SR-30D polymer system (467 g) was then slowly added to the wet resin complex in a Hobart type mixer (Kitchen Aid) to form a uniform mass. The wet mass was again dried at 50° C. in a VWR™ convection oven to the moisture content around 30%. The semi-dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill and continued drying under 50° C. until the moisture content was between 4-6%. The dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill.

reactant | phenylephrine HCl | 400 g | CNC[C@@H](C=1C=CC=C(C1)O)O.Cl
solvent | water | 8 liter | O | H2O
product | Phenylephrine | CNC[C@@H](C=1C=CC=C(C1)O)O | C9H13NO2
